US09302998B2
STEP A: (4-morpholin-4-yl-benzyl)-[(triisopropylsilanyl)-ethynyl]-carbamic acid t-butyl ester
A suspension of t-butyl 4-morpholinobenzylcarbamate (1.11 g, 3.80 mmol), bromoethynyl-triisopropyl-silane, CuI (225 mg, 1.17 mmol) and 1,10-phenantroline (250 mg, 1.40 mmol) in dry toluene (7.5 ml) was warmed to 90° C. under a nitrogen atmosphere. KHMDS (10 ml, 0.5 M in toluene) was added dropwise under nitrogen atmosphere and the mixture was stirred for 12 hours at this temperature. The reaction mixture was cooled to RT; Et2O (30 ml) and NaCl/NH4OH (60/30 ml) were added and the organic phase was extracted with Et2O (3×30 ml), washed with NaCl/NH4 and dried over Na2SO4. The solvent was removed under reduced pressure to afford the title compound which was purified by column chromatography (PE/AcOEt:95/5).

reactant | t-butyl 4-morpholinobenzylcarbamate | 3.80 mmol, 1.11 g | O1CCN(CC1)C1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C16H24N2O3
reactant | bromoethynyl-triisopropyl-silane | BrC#C[Si](C(C)C)(C(C)C)C(C)C | C11H21BrSi
reactant | 1,10-phenantroline | 1.40 mmol, 250 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | KHMDS | 0.5 M, 10 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | NaCl NH4OH | 30 ml | [Na+].[Cl-].[NH4+].[OH-]
solvent | toluene | 7.5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | CuI | 1.17 mmol, 225 mg | [Cu]I
solvent | Et2O | 30 ml | CCOCC | C4H10O
product | (4-morpholin-4-yl-benzyl)-[(triisopropylsilanyl)-ethynyl]-carbamic acid t-butyl ester | Yield: 76% | C(C)(C)(C)OC(N(C#C[Si](C(C)C)(C(C)C)C(C)C)CC1=CC=C(C=C1)N1CCOCC1)=O | C27H44N2O3Si
